US05399588
6-Hydroxy-2-naphthaldehyde
Step a) N-Butyllithium (35.9 mL, 89.7 mmol) was added dropwise to a cold (-78° C.) solution of 6-bromo-2-naphthol (20.0 g, 89.7 mmol) in THF (200 mL). After stirring for 10 minutes, tert-butyllithium (52.76 mL, 89.7 mmol) was added dropwise. The mixture was stirred for 30 min at -78° C., and two hours at -20° C. Then, hexamethylphosphoramide (15.6 mL, 89.7 mmol) was added to the reaction mixture. After stirring for 20 minutes. N,N-dimethylformamide (6.94 mL, 89.7 mmol) was added dropwise. The mixture was allowed to come to room temperature, stirred for 1 hour, and quenched with aqueous ammonium chloride. The mixture was poured into water, acidified with 2N HCL and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexane/EtOAc 3/1 ), gave a yellow solid (12.5 g, 81% yield, m.p. 173°-174° C.).

reactant | N-Butyllithium | 89.7 mmol, 35.9 mL | [Li+].CCC[CH2-]
reactant | 6-bromo-2-naphthol | 89.7 mmol, 20.0 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | tert-butyllithium | 89.7 mmol, 52.76 mL | C(C)(C)(C)[Li]
reactant | hexamethylphosphoramide | 89.7 mmol, 15.6 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | N,N-dimethylformamide | 89.7 mmol, 6.94 mL | CN(C=O)C | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 6-Hydroxy-2-naphthaldehyde | 12.5 g, 81% yield | OC=1C=C2C=CC(=CC2=CC1)C=O | C11H8O2
